US04681883
2-[3-[3-(Piperidinomethyl)phenoxy]propylamino]thiazole
3-[3-(Piperidinomethyl)phenoxy]propylamine (7.45 g) and 2-bromothiazole (2.46 g) in pyridine (25 ml) were stirred under reflux for 20 hours. The reaction mixture was cooled, evaporated and partitioned between chloroform and water. The chloroform layer was evaporated and subjected to medium pressure column chromatography on silica (chloroform:methanol 19:1) to give the title compound as an oil. This was converted to 2-[3-[3(piperidinomethyl)phenoxy]propylamino]thiazole dihydrochloride, m.p. 192.5°-193.5° C. (recrystallised from isopropanol-ethyl acetate).

reactant | 3-[3-(Piperidinomethyl)phenoxy]propylamine | 7.45 g | N1(CCCCC1)CC=1C=C(OCCCN)C=CC1 | C15H24N2O
reactant | 2-bromothiazole | 2.46 g | BrC=1SC=CN1 | C3H2BrNS
solvent | pyridine | 25 ml | N1=CC=CC=C1 | C5H5N
product | 2-[3-[3-(Piperidinomethyl)phenoxy]propylamino]thiazole | N1(CCCCC1)CC=1C=C(OCCCNC=2SC=CN2)C=CC1 | C18H25N3OS
